US04245107
428 mg. of 2-(p-hydroxyphenylsulfinyl)propionic acid and 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 131 mg. of 7-[2-(p-hydroxyphenylsulfinyl)propionamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid were obtained.

reactant | 2-(p-hydroxyphenylsulfinyl)propionic acid | OC1=CC=C(C=C1)S(=O)C(C(=O)O)C | C9H10O4S
reactant | 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
product | 7-[2-(p-hydroxyphenylsulfinyl)propionamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | OC1=CC=C(C=C1)S(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C | C18H19N3O8S2
